US08629271B2
b) 2-(3-((4-(2-Isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenoxy)acetaldehyde
A solution of (9-(3-(2,2-diethoxyethoxy)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone (example 64, step a) (0.36 g) in acetic acid (20 mL) was treated with water (20 mL) and the reaction mixture then heated at 65° C. for 18 hours under nitrogen. The solvents were evaporated under reduced pressure and the residue was azeotroped with toluene to afford the subtitled compound. Yield 0.31 g. Used directly.

reactant | (9-(3-(2,2-diethoxyethoxy)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | C(C)OC(COC=1C=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(C)C)CC2)C=CC1)OCC | C28H41N3O5S
reactant | water | 20 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-(3-((4-(2-Isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)methyl)phenoxy)acetaldehyde | C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)CC=2C=C(OCC=O)C=CC2 | C24H31N3O4S
